US05252560
1,8-Naphthyridine-2,3-dicarboxylic acid, diethyl ester
A suspension of 2-aminopyridine-3-carboxaldehyde (8.67 g) in absolute ethanol (500 mL) was treated with piperidine (1.7 mL) and sodium diethyloxalacetate (29.84 g) and heated to reflux for 18 h. The solvent was evaporated and the residue purified by chromatography on silica using 70% ethyl acetate-hexane as eluent to afford the title compound (2.6 g). M.p. 83°-85°.

reactant | 2-aminopyridine-3-carboxaldehyde | 8.67 g | NC1=NC=CC=C1C=O | C6H6N2O
reactant | piperidine | 1.7 mL | N1CCCCC1 | C5H11N
reactant | sodium diethyloxalacetate | 29.84 g | C(C)C(C(=O)[O-])(C(=O)C(=O)[O-])CC.[Na+].[Na+]
reactant | ethanol | 500 mL | C(C)O | C2H6O
product | 1,8-Naphthyridine-2,3-dicarboxylic acid, diethyl ester | 2.6 g | N1=C(C(=CC2=CC=CN=C12)C(=O)OCC)C(=O)OCC | C14H14N2O4
